US04882329
(b) 3-(2-Hydroxyphenyl)-3-isopropyl-1-methylindolin-2-one
A solution of 1.92 ml (0.02 mol) of boron tribromide in 20 ml of methylene chloride is added dropwise over the course of 1 hour to 5.9 g (0.02 mol) of 3-isopropyl-3-(2-methoxyphenyl)-1-methylindolin-2-one in 75 ml of methylene chloride at 0° C. After 30 minutes, the mixture is poured onto ice-water, and the organic phase is washed with water, dried and evaporated. The residue is triturated with cold toluene and is filtered off with suction. 4.8 g, melting point 172°-174° C.

reactant | boron tribromide | 0.02 mol, 1.92 ml | B(Br)(Br)Br | BBr3
reactant | 3-isopropyl-3-(2-methoxyphenyl)-1-methylindolin-2-one | 0.02 mol | C(C)(C)C1(C(N(C2=CC=CC=C12)C)=O)C1=C(C=CC=C1)OC | C19H21NO2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-Hydroxyphenyl)-3-isopropyl-1-methylindolin-2-one | OC1=C(C=CC=C1)C1(C(N(C2=CC=CC=C12)C)=O)C(C)C | C18H19NO2
